US05994599
CF3CH2OCF2CF2H (60 g, 0.3 mol), SbF5 (10 g, 0.045 mol) and TFE (20 g, 0.2 mol) were charged into a 400 mL Hastelloy™ nickel alloy tube and agitated at 25° C. for 12 hours. Fractionation of the liquid product gave CF3CH2OCF(C2F5)CF2H, 42 g (46.4% yield), b.p. 65.2-65.8° C. (see Table 1). No formation of PTFE was observed.

reactant | CF3CH2OCF2CF2H | 0.3 mol, 60 g | C(F)(F)(F)COC(F)(F)C(F)F | C4H3F7O
catalyst | nickel | [Ni] | Ni
product | CF3CH2OCF(C2F5)CF2H | 46.4% yield | C(F)(F)(F)COC(F)(C(F)(F)C(F)(F)F)C(F)F | C6H3F11O
